US08309720B2
(E)-2-[(dimethylamino)-methylene]-3-oxobutanenitrile
3-Oxo-butyronitrile (113 g, 1.36 mol) and DMF-DMA (215 g, 1.81 mol) were heated to 80° C. for two hours. The solvents were then removed under vacuum to yield a solid. The solid was partitioned between ethyl acetate (1.5 L) and saturated sodium bicarbonate solution (1 L). The layers were separated and the aqueous layer was extracted with ethyl acetate (1.5 L). The organic layers were combined and the solvent removed under vacuum to yield the title compound as a solid.

reactant | 3-Oxo-butyronitrile | 1.36 mol, 113 g | O=C(CC#N)C | C4H5NO
reactant | DMF-DMA | 1.81 mol, 215 g | CN(C)C(OC)OC | C5H13NO2
product | (E)-2-[(dimethylamino)-methylene]-3-oxobutanenitrile | CN(C)\C=C(/C#N)\C(C)=O | C7H10N2O
